US07528147B2
0.089 cm3 of thionyl chloride and five drops of DMF are added to a solution of 0.4 g of [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-yl]methanol in 4 cm3 of dichloromethane, at a temperature in the region of 20° C. The reaction medium is stirred at this same temperature for 4 hours. Ice is added and the reaction medium is then neutralized with saturated sodium hydrogen carbonate solution. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. After purification by flash-pack chromatography (SiO2, dichloromethane/ethyl acetate 97.5/2.5 by volume as eluent), 0.234 g of 4-chloromethyl-2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is obtained, the characteristics of which are as follows:

reactant | thionyl chloride | 0.089 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-yl]methanol | 0.4 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CO)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H25N3O5S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | DMF | five drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 4 cm3 | ClCCl | CH2Cl2
product | 4-chloromethyl-2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.234 g | ClCC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)C)S(=O)(=O)C2=CC=C(C=C2)C | C26H24ClN3O4S
